US05314887
Part E: 2-Amino-1,4-dihydro-4-{2-[(4-chlorobutyl)sulfonyl]phenyl}-6-methyl-5-nitro-3-pyridinecarboxylic acid methyl ester
To a solution of 3.2 g of 4-{2-[(4-chlorobutyl)sulfonyl]phenyl}-3-nitro-3-buten-2-one in 25 ml of methanol in a 100 ml single-neck flask at 0° C. was added 1.41 g of amidino-acetic acid methyl ester hydrochloride, followed by 2.2 ml of 25% sodium methoxide in methanol. The mixture was warmed to room temperature and stirred overnight. After removal of the methanol, the residue was partitioned between water and dichloromethane. The organic layer was dried over magnesium sulfate and evaporated to give a crude product, which was purified via column chromatography on silica gel, eluting with 60:40 toluene:ethyl acetate. Recrystallization from isopropyl acetate provided 1.08 g of an orange product, m.p. 218° C. 1H-NMR (d6 -DMSO) δ 1.71-1 95(m,4H); 2.45(s,3H); 2.48-2.55(m,2H); 3.34(s,3H); 3.69(m,2H); 6.49(s,1H); 6.87(br s,2H); 7.33-7.44(m,2H); 7.56(t,1H,J=8 Hz); 7.79(d,1H,J=8 Hz); 9.51(br s,1H). Mass spectrum: 444 (M+H).

reactant | 4-{2-[(4-chlorobutyl)sulfonyl]phenyl}-3-nitro-3-buten-2-one | 3.2 g | ClCCCCS(=O)(=O)C1=C(C=CC=C1)C=C(C(C)=O)[N+](=O)[O-] | C14H16ClNO5S
reactant | amidino-acetic acid methyl ester hydrochloride | 1.41 g | Cl.COC(CC(N)=N)=O
reactant | sodium methoxide | 2.2 ml | C[O-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | 2-Amino-1,4-dihydro-4-{2-[(4-chlorobutyl)sulfonyl]phenyl}-6-methyl-5-nitro-3-pyridinecarboxylic acid methyl ester | 1.08 g | COC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)S(=O)(=O)CCCCCl)[N+](=O)[O-])C)N | C18H22ClN3O6S
